US07872018B2
Step 1—Preparation of tert-butyl-(2,4-dichloro-phenoxy)-dimethyl-silane (113)
To 2,4-dichloro-phenol, (112, 4.80 g, 0.0294 mol) in N,N-dimethylformamide (100.0 mL) were added 1H-imidazole (5.21 g, 0.0766 mol) and tert-butyldimethylsilyl chloride (5.33 g, 0.0353 mol). The reaction was stirred at room temperature overnight. The reaction was poured into water and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated and purified by silica gel column chromatography eluting with 15% to 50% ethyl acetate in hexane to give a colorless oil (113, 7.10 g, 87.0%).

reactant | 2,4-dichloro-phenol | ClC1=C(C=CC(=C1)Cl)O | C6H4Cl2O
reactant | 1H-imidazole | 0.0766 mol, 5.21 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 0.0353 mol, 5.33 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100.0 mL | CN(C=O)C | C3H7NO
product | tert-butyl-(2,4-dichloro-phenoxy)-dimethyl-silane | C(C)(C)(C)[Si](C)(C)OC1=C(C=C(C=C1)Cl)Cl | C12H18Cl2OSi
